US07977331B1
To a solution of methyl 3-cyclohexyl-2-[2-(2-hydroxyethylcarbamoyl)phenyl]-1H-indole-6-carboxylate (2.00 g, 4.75 mmol) in tetrahydrofuran (5.0 ml) was added a solution (20.0 ml, 20.0 mmol) of 1M BH3 THF complex in tetrahydrofuran under ice-cooling, and the mixture was stirred at room temperature for 17 hr. 2N Hydrochloric acid (20 ml) was added to the reaction mixture, and the mixture was stirred at 70° C. for 1.5 hr. The reaction mixture was allowed to cool to room temperature, the reaction mixture was neutralized with 4N aqueous sodium hydroxide solution and aqueous sodium hydrogen carbonate solution. To this mixture was added di-tert-butyl dicarbonate (1.60 g, 7.33 mmol), and the mixture was stirred at room temperature for 6 hr. The reaction mixture was extracted with ethyl acetate, and the organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. After filtration, the solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography (chloroform:methanol=30:1-10:1) to give methyl 2-(2-{[N-tert-butoxycarbonyl-N-(2-hydroxyethyl)amino]methyl}phenyl)-3-cyclohexyl-1H-indole-6-carboxylate (524 mg, yield 22.1%).

reactant | methyl 3-cyclohexyl-2-[2-(2-hydroxyethylcarbamoyl)phenyl]-1H-indole-6-carboxylate | 4.75 mmol, 2.00 g | C1(CCCCC1)C1=C(NC2=CC(=CC=C12)C(=O)OC)C1=C(C=CC=C1)C(NCCO)=O | C25H28N2O4
reactant | Hydrochloric acid | 2N, 20 ml | Cl | ClH
reactant | sodium hydroxide | 4N | [OH-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | di-tert-butyl dicarbonate | 7.33 mmol, 1.60 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 5.0 ml | O1CCCC1 | C4H8O
product | methyl 2-(2-{[N-tert-butoxycarbonyl-N-(2-hydroxyethyl)amino]methyl}phenyl)-3-cyclohexyl-1H-indole-6-carboxylate | 524 mg, yield 22.1% | C(C)(C)(C)OC(=O)N(CCO)CC1=C(C=CC=C1)C=1NC2=CC(=CC=C2C1C1CCCCC1)C(=O)OC | C30H38N2O5
